US07087579B2
To a solution of 4-bromostylene (1.83 g) in dichloromethane (5 mL) was added diethylzinc (1 mol/L, 30 mL) under an argon atmosphere at 0° C., and the mixture was stirred at the same temperature for 10 minutes. Chloroiodomethane (4.3 mL) was added to the mixture, and the mixture was warmed to room temperature and stirred for 9 days. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to give 4-cyclopropylbromobenzene. The obtained 4-cyclopropylbromobenzene was dissolved in tetrahydrofuran (25 mL) and cooled to −78° C. To the solution was added dropwise tert-butyl lithium (1.45 mol/L pentane solution, 9.4 mL) under an argon atmosphere, and the mixture was stirred at −78° C. for 30 minutes. To the reaction mixture was added a solution of N,N-dimethylformamide (1.2 mL) in tetrahydrofuran (16 mL), and the mixture was warmed to 0° C. and stirred for 1 hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=12/1) to give 4-cyclopropylbenzaldehyde (0.72 g).

reactant | 4-cyclopropylbromobenzene | C1(CC1)C1=CC=C(C=C1)Br | C9H9Br
reactant | tert-butyl lithium | 1.45 mol/L, 9.4 mL | C(C)(C)(C)[Li]
reactant | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
product | 4-cyclopropylbenzaldehyde | 0.72 g | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
